US07022723B2
Methyl 2-methyl-5-{3-[(5-methyl-2-phenyloxazol-4-yl)methyl]benzyl}-1,3-dioxane-2-carboxylate
To 5 ml of acetonitrile, 297 mg of 4-{3-[2,2-bis-(hydroxymethyl)ethyl]benzyl}-5-methyl-2-phenyloxazole and 369 mg of methylpyruvate were added. To the mixture was added 544 mg of boron trifluoride etherate (about 47%) with stirring at room temperature, and stirred for 14 hours at room temperature. The reaction solution was poured into an ice-cold water solution of sodium hydrogencarbonate and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (Wakogel® C-200, n-hexane:ethyl acetate=3:1) to provide 185 mg of a mixture (cis:trans=2.5:1, based on NMR integral value) as colorless oil.

reactant | 4-{3-[2,2-bis-(hydroxymethyl)ethyl]benzyl}-5-methyl-2-phenyloxazole | 297 mg | OCC(CC=1C=C(CC=2N=C(OC2C)C2=CC=CC=C2)C=CC1)CO | C21H23NO3
reactant | methylpyruvate | 369 mg | CCC(C(=O)[O-])=O
reactant | boron trifluoride etherate | 544 mg | B(F)(F)F.CCOCC
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | Methyl 2-methyl-5-{3-[(5-methyl-2-phenyloxazol-4-yl)methyl]benzyl}-1,3-dioxane-2-carboxylate | 185 mg | CC1(OCC(CO1)CC1=CC(=CC=C1)CC=1N=C(OC1C)C1=CC=CC=C1)C(=O)OC | C25H27NO5
